datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][C:12]([H:13])([H:14])[H:15],62.76
[C:0](=[C:1]=[C:2][H:4])[H:3].[H:5]>>[C:0]=[C:1]=[C:2][H:4].[H:3][H:5],0.0
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([S:10][H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([S:10][H:15])[H:14],112.591
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][O:24][O:25][H:26],62.751632
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13](=[S:14])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:13](=[S:14])[H:17])([H:15])[H:16],48.5344
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:23])([H:24])[H:25])[C:17](=[C:18]([H:27])[H:28])[H:26])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[C:17](=[C:18]([H:27])[H:28])[H:26])[H:5],31.7566
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18],220.9152
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26],83.68
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([S:1])([H:3])([H:4])[H:5].[S:2]([H:6])[H:7],3.7656
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[H:11]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[H:11])[H:7])([H:5])[H:6],12.2591
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]1([C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:23])[H:13])([H:11])[H:12],66.4838
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([C:7]([C:8]([C:9]([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([H:23])[H:24])[H:10],49.9151
[C:0]([C:1](=[S:2])[H:5])([H:3])[H:4].[H:6][H:7]>>[C:0]([C:1](=[S:2])[H:5])([H:3])([H:4])[H:7].[H:6],99.9976
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13])[H:4],40.794
[H:0].[H:1]>>[H:0][H:1],0.0
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[S:13][H:18])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:14])([C:12]([H:15])([H:16])[H:17])[S:13][H:18],65.8562
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([H:11])[H:12]>>[C:0]([C:1]1=[C:2]([C:3]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12])([H:4])([H:5])[H:6],0.096232
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[S:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11],126.44
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([S:11][H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:14])[H:4].[C:9](=[C:10][S:11][H:15])([H:12])[H:13],89.9142
